US06858651B2
In analogy to example 11.9. trans-4-Methylamino-cyclohexanol and 4-bromobenzenesulfonylchloride were reacted to yield trans-4-Bromo-N-(4-hydroxy-cyclohexyl)-N-methyl-benzenesulfonamide as off-white solid, MS: 348 (MH+, 1Br).

reactant | trans-4-Methylamino-cyclohexanol | CN[C@@H]1CC[C@H](CC1)O | C7H15NO
reactant | 4-bromobenzenesulfonylchloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | trans-4-Bromo-N-(4-hydroxy-cyclohexyl)-N-methyl-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)N(C)[C@@H]1CC[C@H](CC1)O | C13H18BrNO3S
